US09340513B2
4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(4-Chlorophenyl)cyclopropyl)amino)-2-methyl-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(4-chlorophenyl)cyclopropyl)amino)-2-methyl-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (300 mg, 0.355 mmol) in DCM (6 mL) was added TFA (3 mL, 0.355 mmol). The reaction mixture was stirred at rt for 2 hr and evaporated in vacuo to afford crude product which was diluted with DCM (30 mL) and washed with water, saturated NaHCO3, water, saturated NH4CI and water. The organic layer was dried over Na2SO4, filtered and concentrated to obtain a residue which was dissolved into MeCN—H2O (1:2, 9 mL) and freeze-dried to give the title compound (150 mg, 0.190 mmol, 53.6%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ=12.81-11.61 (m, 1H), 8.73-8.51 (m, 1H), 7.28 (d, J=8.3 Hz, 2H), 7.22-7.04 (m, 2H), 6.54 (s, 1H), 4.39 (dd, J=4.9, 11.2 Hz, 1H), 3.23-3.10 (m, 1H), 2.79-0.44 (m, 57H); LC/MS: m/z calculated 787.5. Found 788.3 (M+1)+.

reactant | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(4-chlorophenyl)cyclopropyl)amino)-2-methyl-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 0.355 mmol, 300 mg | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C(\C(=O)NC5(CC5)C5=CC=C(C=C5)Cl)/C)C)C)(C)C)C | C52H74ClNO6
reactant | TFA | 0.355 mmol, 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | MeCN—H2O | 9 mL | CC#N.O
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(4-Chlorophenyl)cyclopropyl)amino)-2-methyl-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 0.190 mmol, 150 mg, 53.6% | ClC1=CC=C(C=C1)C1(CC1)NC(/C(=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(C(C2)=O)C(C)C)/C)=O | C48H66ClNO6
